US04547501
(d) Preparation of 7-fluoro-4-hydroxy-[1,2,4]triazolo[4,3-a]quinoxaline
A mixture consisting of 11.3 g (0.52 mole) of 7-fluoro-4-methoxy-[1,2,4]triazolo[4,3-a]quinoxaline, 115 ml. of 1N hydrochloric acid and 345 ml. of glacial acetic acid was refluxed for a period of three hours. Upon completion of this step, the reaction mixture was cooled to room temperature and poured over ice/water. The resulting mixture was then stirred for a period of 30 minutes and thereafter filtered to remove the precipitate, which was subsequently washed with water and air-dried to ultimately afford 8.9 g. (84%) of pure 7-fluoro-4-hydroxy-[1,2,4]triazolo[4,3-a]quinoxaline, m.p.>300° C. Mass Spectrum: m/e, 204 (P).

reactant | 7-fluoro-4-methoxy-[1,2,4]triazolo[4,3-a]quinoxaline | 0.52 mole, 11.3 g | FC=1C=C2N=C(C=3N(C2=CC1)C=NN3)OC | C10H7FN4O
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 7-fluoro-4-hydroxy-[1,2,4]triazolo[4,3-a]quinoxaline | FC=1C=C2N=C(C=3N(C2=CC1)C=NN3)O | C9H5FN4O
